### ISSUE TITLE
landrun sandbox fails on Linux when comparator uses elan's lake shim and misses the ELF loader

### ISSUE THREAD

**Issue by kim-em** [leanprover/comparator#30]
On Linux, comparator fails in `safeLakeBuild` with:

```text
Building Challenge
[landrun:error] permission denied
uncaught exception: Child exited with 1
```

I reproduced this on:
- GitHub Actions `ubuntu-latest`
- Ubuntu 24.04 `aarch64`
- x86_64 NixOS

## Minimal repro

Prereqs: Lean installed via `elan`, plus `go` and `git`.

```bash
go install github.com/zouuup/landrun/cmd/landrun@latest

git clone https://github.com/leanprover/lean4export.git /tmp/lean4export
(cd /tmp/lean4export && lake build lean4export)

git clone https://github.com/leanprover/comparator.git /tmp/comparator
(cd /tmp/comparator && git checkout 0ff36dde148dfea82dbdcf3baf91d6e1a8195554 && lake build comparator)

export PATH="$(go env GOPATH)/bin:/tmp/lean4export/.lake/build/bin:$PATH"

mkdir -p /tmp/comparator-repro
cd /tmp/comparator-repro

cp /tmp/comparator/lean-toolchain .

cat > lakefile.toml <<'EOF2'
name = "comparatortest"
version = "0.1.0"

[[lean_lib]]
name = "Challenge"

[[lean_lib]]
name = "Solution"
EOF2

cat > Challenge.lean <<'EOF2'
theorem comm (n m : Nat) : n + m = m + n := by
  sorry
EOF2

cat > Solution.lean <<'EOF2'
theorem comm (n m : Nat) : n + m = m + n := by
  exact Nat.add_comm _ _
EOF2

cat > config.json <<'EOF2'
{
  "challenge_module": "Challenge",
  "solution_module": "Solution",
  "theorem_names": ["comm"],
  "permitted_axioms": ["propext", "Quot.sound", "Classical.choice"],
  "enable_nanoda": false
}
EOF2

lake env /tmp/comparator/.lake/build/bin/comparator config.json
```

Expected:
```text
Your solution is okay!
```

Actual:
```text
Building Challenge
[landrun:error] permission denied
uncaught exception: Child exited with 1
```

## Cause

There are at least two Linux issues here:

1. `safeLakeBuild` uses `cmd := "lake"`, which may resolve to an elan shim rather than the real toolchain binary.
   - On some setups this is a static launcher, so `ldd` does not produce useful runtime dependency information.
   - On other setups it is still the wrong sandbox entrypoint because the actual executable path comparator wants is `$(lean --print-prefix)/bin/lake`.

2. Even with the real toolchain `lake` binary, landrun still needs the ELF interpreter / dynamic loader to be explicitly executable inside the sandbox.
   - e.g. `/lib/ld-linux-aarch64.so.1` on Ubuntu `aarch64`
   - e.g. `/lib64/ld-linux-x86-64.so.2` on x86_64 glibc systems

With outer `strace`, I saw `execve(real_lake, ...) = -1 EACCES (Permission denied)` until the loader path was added.

A second issue shows up in `safeExport`: directly sandboxing `lean4export` is not robust across distros. The version that worked on Ubuntu still failed for me on x86_64 NixOS.

## Patch shape that passed for me

The patch shape that passed the minimal repro on both Ubuntu `aarch64` and x86_64 NixOS was:

- `safeLakeBuild`: run the real toolchain `lake` binary, not plain `lake`
- `safeExport`: also use that same toolchain `lake` as the sandbox entrypoint, and run `lake env /abs/path/to/lean4export ...`
- explicitly whitelist the `lean4export` parent directory
- detect and whitelist the ELF loader for the sandbox entrypoint binary
- do the analogous concrete-binary + loader handling for `nanoda_bin`

The exact diff is in the follow-up comment here:
- https://github.com/leanprover/comparator/issues/30#issuecomment-4230657214

## Remaining caveat

On a completely unprimed project, `lake build` may still want to write `lake-manifest.json` in the project root, which is outside comparator's current `writablePaths`. That looks separate from the original `permission denied` failure above, but it may still matter for fully cold runs.

**Comment by kim-em** [comment]
Here is the exact patch that fixed the repro for me locally.

```diff
diff --git a/Main.lean b/Main.lean
index 2a9ce92..6f1b12c 100644
--- a/Main.lean
+++ b/Main.lean
@@ -72,6 +72,43 @@ def queryLeanPrefix (projectDir : System.FilePath) : IO System.FilePath := do
   }
   return out.trimAscii.toString
 
+def queryExecutableLocation (cmd : String) : IO System.FilePath := do
+  let out ← IO.Process.run {
+    cmd := "which",
+    args := #[cmd],
+    stdout := .piped,
+  }
+  return out.trimAscii.toString
+
+def queryDynamicLoader? (binary : System.FilePath) : IO (Option System.FilePath) := do
+  let out ← IO.Process.output {
+    cmd := "ldd",
+    args := #[binary.toString],
+  }
+  if out.exitCode != 0 then
+    return none
+  let matchesLoader (token : String) : Bool :=
+    token.contains "ld-linux" || token.contains "ld-musl"
+  let rec go : List String → Option System.FilePath
+    | [] => none
+    | line :: rest =>
+        let trimmed := line.trimAscii.toString
+        if trimmed.startsWith "/" then
+          let token := trimmed.takeWhile (fun c => !c.isWhitespace) |>.toString
+          if matchesLoader token then
+            some <| System.FilePath.mk token
+          else
+            go rest
+        else
+          go rest
+  return go (out.stdout.splitOn "\n")
+
+def withDynamicLoaderPaths (cmd : System.FilePath) (paths : Array System.FilePath) :
+    IO (Array System.FilePath) := do
+  match ← queryDynamicLoader? cmd with
+  | some loader => return paths.push loader
+  | none => return paths
+
 def buildLandrunArgs (spawnArgs : LandrunArgs) : Array String :=
   let args := #["--best-effort", "--ro", "/", "--rw", "/dev", "-ldd", "-add-exec"]
   let args := spawnArgs.envPass.foldl (init := args) (fun acc env => acc ++ #["--env", env])
@@ -108,18 +145,20 @@ def safeLakeBuild (target : Lean.Name) : M Unit := do
   let projectDir ← getProjectDir
   let dotLakeDir := projectDir / ".lake"
   let gitLocation ← getGitLocation
+  let lakeLocation := leanPrefix / "bin" / "lake"
+  let executablePaths ← withDynamicLoaderPaths lakeLocation #[leanPrefix, gitLocation]
 
   if !(← System.FilePath.pathExists dotLakeDir) then
     IO.FS.createDir dotLakeDir
 
   runSandBoxed {
-    cmd := "lake",
+    cmd := lakeLocation.toString,
     args := #["build", target.toString (escape := false)],
     envPass := #["PATH", "HOME", "LEAN_ABORT_ON_PANIC"]
     envOverride := #[("LEAN_ABORT_ON_PANIC", some "1")]
     readablePaths := #[projectDir]
     writablePaths := #[dotLakeDir]
-    executablePaths := #[leanPrefix, gitLocation]
+    executablePaths := executablePaths
   }
 
 def safeExport (module : Lean.Name) (decls : Array Lean.Name) : M String := do
@@ -128,16 +167,18 @@ def safeExport (module : Lean.Name) (decls : Array Lean.Name) : M String := do
   let args := decls.foldl (·.push <| ·.toString (escape := false)) baseArgs
 
   let leanPrefix ← getLeanPrefix
+  let exportLocation ← queryExecutableLocation "lean4export"
   let projectDir ← getProjectDir
   let dotLakeDir := projectDir / ".lake"
+  let executablePaths ← withDynamicLoaderPaths exportLocation #[leanPrefix]
   runSandBoxedWithStdout {
-    cmd := "lean4export",
+    cmd := exportLocation.toString,
     args := args,
     envPass := #["PATH", "HOME", "LEAN_PATH", "LEAN_ABORT_ON_PANIC"]
     envOverride := #[("LEAN_ABORT_ON_PANIC", some "1")]
     readablePaths := #[projectDir, dotLakeDir]
     writablePaths := #[]
-    executablePaths := #[leanPrefix]
+    executablePaths := executablePaths
   }
 
 def runNanoda (solutionExport : String) : M Unit := do
@@ -153,13 +194,16 @@ def runNanoda (solutionExport : String) : M Unit := do
     ]
     config.flush
 
+    let nanodaLocation ← queryExecutableLocation "nanoda_bin"
+    let executablePaths ← withDynamicLoaderPaths nanodaLocation #[]
+
     let spawnArgs := {
-      cmd := "nanoda_bin",
+      cmd := nanodaLocation.toString,
       args := #[configPath.toString],
       envPass := #[]
       readablePaths := #[configPath.toString]
       writablePaths := #[]
-      executablePaths := #[]
+      executablePaths := executablePaths
     }
 
     let args := buildLandrunArgs spawnArgs
```

This is a workaround-quality patch, not a claim that this is the best final design. But it does make the minimal repro in the issue pass for me on Linux.

**Comment by kim-em** [comment]
After more testing, the previous workaround I posted is not the right final patch.

It works on Ubuntu, but it still fails on x86_64 NixOS during `safeExport`.

A better patch is:
- `safeLakeBuild`: run the real toolchain `lake` binary, not plain `lake`
- `safeExport`: also use that same toolchain `lake` as the sandbox entrypoint, and run `lake env /abs/path/to/lean4export ...`
- explicitly whitelist the `lean4export` parent directory
- detect and whitelist the ELF loader for the sandbox entrypoint binary
- do the analogous concrete-binary + loader handling for `nanoda_bin`

This revised patch passes the minimal repro for me on both:
- Ubuntu 24.04 `aarch64`
- x86_64 NixOS

Exact diff from comparator commit `0ff36dde148dfea82dbdcf3baf91d6e1a8195554`:

```diff
diff --git a/Main.lean b/Main.lean
index 2a9ce92..3bf6f5a 100644
--- a/Main.lean
+++ b/Main.lean
@@ -72,6 +72,41 @@ def queryLeanPrefix (projectDir : System.FilePath) : IO System.FilePath := do
   }
   return out.trimAscii.toString
 
+def queryExecutableLocation (cmd : String) : IO System.FilePath := do
+  let out ← IO.Process.run {
+    cmd := "which",
+    args := #[cmd],
+    stdout := .piped,
+  }
+  return out.trimAscii.toString
+
+def queryDynamicLoader? (binary : System.FilePath) : IO (Option System.FilePath) := do
+  let out ← IO.Process.output {
+    cmd := "ldd",
+    args := #[binary.toString],
+  }
+  if out.exitCode != 0 then
+    return none
+  let rec go : List String → Option System.FilePath
+    | [] => none
+    | line :: rest =>
+        let trimmed := line.trimAscii.toString
+        if trimmed.startsWith "/" then
+          let token := trimmed.takeWhile (fun c => !c.isWhitespace) |>.toString
+          if token.contains "ld-linux" || token.contains "ld-musl" then
+            some <| System.FilePath.mk token
+          else
+            go rest
+        else
+          go rest
+  return go (out.stdout.splitOn "\n")
+
+def withDynamicLoaderPaths (binary : System.FilePath) (paths : Array System.FilePath) :
+    IO (Array System.FilePath) := do
+  match ← queryDynamicLoader? binary with
+  | some loader => return paths.push loader
+  | none => return paths
+
 def buildLandrunArgs (spawnArgs : LandrunArgs) : Array String :=
   let args := #["--best-effort", "--ro", "/", "--rw", "/dev", "-ldd", "-add-exec"]
   let args := spawnArgs.envPass.foldl (init := args) (fun acc env => acc ++ #["--env", env])
@@ -108,36 +143,43 @@ def safeLakeBuild (target : Lean.Name) : M Unit := do
   let projectDir ← getProjectDir
   let dotLakeDir := projectDir / ".lake"
   let gitLocation ← getGitLocation
+  let lakeLocation := leanPrefix / "bin" / "lake"
+  let executablePaths ← withDynamicLoaderPaths lakeLocation #[leanPrefix, gitLocation]
 
   if !(← System.FilePath.pathExists dotLakeDir) then
     IO.FS.createDir dotLakeDir
 
   runSandBoxed {
-    cmd := "lake",
+    cmd := lakeLocation.toString,
     args := #["build", target.toString (escape := false)],
     envPass := #["PATH", "HOME", "LEAN_ABORT_ON_PANIC"]
     envOverride := #[("LEAN_ABORT_ON_PANIC", some "1")]
     readablePaths := #[projectDir]
     writablePaths := #[dotLakeDir]
-    executablePaths := #[leanPrefix, gitLocation]
+    executablePaths := executablePaths
   }
 
 def safeExport (module : Lean.Name) (decls : Array Lean.Name) : M String := do
   IO.println s!"Exporting {decls} from {module}"
-  let baseArgs := #[module.toString (escape := false), "--"]
+  let exportLocation ← queryExecutableLocation "lean4export"
+  let baseArgs := #["env", exportLocation.toString, module.toString (escape := false), "--"]
   let args := decls.foldl (·.push <| ·.toString (escape := false)) baseArgs
 
   let leanPrefix ← getLeanPrefix
   let projectDir ← getProjectDir
   let dotLakeDir := projectDir / ".lake"
+  let gitLocation ← getGitLocation
+  let lakeLocation := leanPrefix / "bin" / "lake"
+  let executablePaths ← withDynamicLoaderPaths lakeLocation
+    #[leanPrefix, gitLocation, exportLocation.parent.get!]
   runSandBoxedWithStdout {
-    cmd := "lean4export",
+    cmd := lakeLocation.toString,
     args := args,
     envPass := #["PATH", "HOME", "LEAN_PATH", "LEAN_ABORT_ON_PANIC"]
     envOverride := #[("LEAN_ABORT_ON_PANIC", some "1")]
     readablePaths := #[projectDir, dotLakeDir]
     writablePaths := #[]
-    executablePaths := #[leanPrefix]
+    executablePaths := executablePaths
   }
 
 def runNanoda (solutionExport : String) : M Unit := do
@@ -153,13 +195,16 @@ def runNanoda (solutionExport : String) : M Unit := do
     ]
     config.flush
 
+    let nanodaLocation ← queryExecutableLocation "nanoda_bin"
+    let executablePaths ← withDynamicLoaderPaths nanodaLocation #[nanodaLocation.parent.get!]
+
     let spawnArgs := {
-      cmd := "nanoda_bin",
+      cmd := nanodaLocation.toString,
       args := #[configPath.toString],
       envPass := #[]
       readablePaths := #[configPath.toString]
       writablePaths := #[]
-      executablePaths := #[]
+      executablePaths := executablePaths
     }
 
     let args := buildLandrunArgs spawnArgs
```

One remaining caveat I noticed while testing: on a completely unprimed project, `lake build` may still want to write `lake-manifest.json` in the project root, which is outside comparator's current `writablePaths`. That is separate from the original `permission denied` failure, but may still matter for fully cold runs.

**Comment by hargoniX** [comment]
Your reproducer is still not using the current master of landrun `go install github.com/zouuup/landrun/cmd/landrun@latest` will download and install the latest semver tag which is v0.1.15. As noted in #29 with the current master version everything just works. I've verified this both in (dockerized) Ubuntu environments and on our NixOS machines.

Can you confirm that it works with the master version of landrun?
